US06498154B1
6-(3-Chlorophenyl)-4,4-dimethyl-2-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazine
Prepared according to the coupling procedure for Example 17 from 6-bromo-4,4-dimethyl-2-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazine and 3-chlorophenyl boronic acid. A yellowish solid: mp 108-109° C.; 1H-NMR (DMSO-d6) δ 7.69 (t, 1H, J=1.7 Hz), 7.59 (d, 1H, J=7.8 Hz), 7.35-7.50 (m, 3H), 7.32 (dt, 1H, J=8.1, 1.1 Hz), 6.91 (s, 1H), 6.87 (d, 1H, J=8.4 Hz), 5.35 (m, 1H), 1.60 (s, 3H), 1.59 (s, 3H); MS (ESI) m/z 340 [M−H]−.

reactant | 6-bromo-4,4-dimethyl-2-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazine | BrC=1C=CC2=C(C(OC(N2)C(F)(F)F)(C)C)C1 | C11H11BrF3NO
reactant | 3-chlorophenyl boronic acid | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | 6-(3-Chlorophenyl)-4,4-dimethyl-2-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazine | ClC=1C=C(C=CC1)C=1C=CC2=C(C(OC(N2)C(F)(F)F)(C)C)C1 | C17H15ClF3NO
